US09062028B2
Step A. Methyl 3-((6-bromopyridin-3-yloxy)methyl)benzoate
To a solution of 6-bromopyridin-3-ol (0.500 g, 2.87 mmol) in DMF (3.0 mL) at 0° C. was added NaH (60% in mineral oil, 0.149 g, 3.74 mmol) portion-wise over a period of 10 min. The mixture was warmed to room temperature, stirred for 30 min, and methyl 3-(bromomethyl)benzoate (0.790 g, 3.45 mmol) was added in one portion. The reaction was stirred at room temperature for 16 h. The mixture was partitioned between EtOAc and water. The organic layer was separated, washed with water and brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to provide the crude material. The crude material was purified by flash chromatography (0-50% ethyl acetate:hexanes) to afford the title compound (0.726 g, 78% yield) as an off-white solid. LCMS, [M+H]+=322.0.

reactant | 6-bromopyridin-3-ol | 2.87 mmol, 0.500 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | NaH | 3.74 mmol, 0.149 g | [H-].[Na+]
reactant | methyl 3-(bromomethyl)benzoate | 3.45 mmol, 0.790 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | Methyl 3-((6-bromopyridin-3-yloxy)methyl)benzoate | 0.726 g, 78% yield | BrC1=CC=C(C=N1)OCC=1C=C(C(=O)OC)C=CC1 | C14H12BrNO3
